US08835472B2
N-(2-{4-[(tert-Butyldimethylsilanyl)-ethynyl]-phenyl}-1-methyl-ethyl)-acetamide
To 2.40 g (7.38 mmol) trifluoromethanesulfonic acid 4-(2-acetylamino-propyl)-phenyl ester (I53.1), 1.52 mL (8.12 mmol) (tert-butyldimethylsilyl)acetylene and 2.56 mL (18.4 mmol) diisopropylamine in 25 mL ACN are added 72.3 mg (0.089 mmol) [1,1′bis(diphenylphosphino)ferrocene]dichloropalladium(II), complex with dichloromethane and 17.2 mg (0.09 mmol) CuI, and the mixture is stirred at r.t. for 24 h. Again 0.69 mL (3.69 mmol) (tert-butyldimethyl-silyl)acetylene are added and stirring is continued for additional 24 h. The mixture is poured onto aq. ammonia solution (5%), diluted with EtOAc and the organic layer is separated. The organic layer is washed with diluted aq. ammonia solution (1×) and water (1×), dried with MgSO4 and the solvent is removed in vacuo. The residue is purified by column chromatography (silica gel; PE/EtOAc 2/8).

reactant | trifluoromethanesulfonic acid 4-(2-acetylamino-propyl)-phenyl ester | 7.38 mmol, 2.40 g | C(C)(=O)NC(CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)C | C12H14F3NO4S
reactant | (tert-butyldimethylsilyl)acetylene | 8.12 mmol, 1.52 mL | [Si](C)(C)(C(C)(C)C)C#C | C8H16Si
reactant | diisopropylamine | 18.4 mmol, 2.56 mL | C(C)(C)NC(C)C | C6H15N
reactant | (tert-butyldimethyl-silyl)acetylene | 3.69 mmol, 0.69 mL | C(C)(C)(C)[Si](C)(C)C#C | C8H16Si
reactant | ammonia | N | H3N
solvent | ACN | 25 mL | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | [1,1′bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.089 mmol, 72.3 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | CuI | 0.09 mmol, 17.2 mg | [Cu]I
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2-{4-[(tert-Butyldimethylsilanyl)-ethynyl]-phenyl}-1-methyl-ethyl)-acetamide | [Si](C)(C)(C(C)(C)C)C#CC1=CC=C(C=C1)CC(C)NC(C)=O | C19H29NOSi
